US05116941
BOC-Arg-CHA.HCl, 243.7 g (0.55 mole), was dissolved in 1093 ml of 2N HCl/AcOH and a small amount of MeOH. The solution was reacted at room temperature for an hour. After completion of the reaction, 1093 ml of isopropanol was added to the reaction mixture to cause precipitation again in AcOEt. The precipitated crystals were taken by filtration and dried to give 156.2 g (74.3%) of H-Arg-CHA.2HCl.

reactant | BOC-Arg | N([C@@H](CCCNC(N)=N)C(=O)O)C(=O)OC(C)(C)C | C11H22N4O4
reactant | HCl | Cl | ClH
reactant | MeOH | CO | CH4O
reactant | isopropanol | 1093 ml | C(C)(C)O | C3H8O
solvent | HCl AcOH | 2N, 1093 ml | Cl.CC(=O)O
product | H-Arg | 156.2 g, 74.3% | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
